US07365090B2
A solution of 5-nitro-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide (0.25 g, 0.0007 mol) in tetrahydrofuran (40 mL) and methanol (16 mL) was reduced under an atmospheric pressure of hydrogen in the presence of PtO2 (50 mg) as a catalyst for 6 hours. Catalyst was separated by filtration and the solvent evaporated to give 0.227 g (100%) of pure 5-amino-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide as a brown oil. A solution of the last compound (0.227 g, 0.0007 mol), 2,5-dimethoxy-tetrahydrofuran (0.09 g, 0.0006 mol) in glacial acetic acid (5 mL) was refluxed for 30 minutes. After evaporation of the solvent the residue was triturated with ice water and extracted with ethyl acetate. Organic layer was washed with brine and dried. Removal of the solvent left the crude product which was purified by passing through a silica gel column chromatography (ethyl acetate as eluent) to give 0.15 g (57%) of title compound, mp 270-272° C. (from ethanol).

reactant | 5-nitro-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide | 0.0007 mol, 0.25 g | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)CC(=O)N)S(=O)(=O)C1=CC(=CC(=C1)C)C | C18H17N3O5S
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | methanol | 16 mL | CO | CH4O
catalyst | PtO2 | 50 mg | O=[Pt]=O
product | 5-amino-3-(3,5-dimethylphenylsulfonyl)indole-2-carboxyamide | 0.227 g, 100% | NC=1C=C2C(=C(NC2=CC1)CC(=O)N)S(=O)(=O)C1=CC(=CC(=C1)C)C | C18H19N3O3S
